US05256824
1-(4,4-Diphenyl-2-cyclopentenyl)piperazine dihydrochloride was obtained by reacting 5,5-diphenyl-2-cyclopenten-1-ol and 1-formylpiperazine according to a similar manner to that of Example 11 to give 1-(4,4-diphenyl-2-cyclopentenyl)-4-formylpiperazine, then eliminating formyl group thereof in a conventional manner.

reactant | 5,5-diphenyl-2-cyclopenten-1-ol | C1(=CC=CC=C1)C1(CC=CC1O)C1=CC=CC=C1 | C17H16O
reactant | 1-formylpiperazine | C(=O)N1CCNCC1 | C5H10N2O
product | 1-(4,4-diphenyl-2-cyclopentenyl)-4-formylpiperazine | C1(=CC=CC=C1)C1(C=CC(C1)N1CCN(CC1)C=O)C1=CC=CC=C1 | C22H24N2O
